US08008481B2
Preparation #12. Methyl 2-(4-methoxy-benzyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole-7-carboxylate
[1,1′-Bis(diphenylphosphino)-ferrocene)dichloropalladium(II) 1:1 complex with dichloromethane (408 mg, 0.50 mmol) was added to a mixture of methyl 1-(4-methoxy-benzyl)-5-bromo-1H-indazole-7-carboxylate and methyl 2-(4-methoxy-benzyl)-5-2H-indazole-7-carboxylate (Preparations #11d and 12a, 3.70 g, 9.87 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (7.62 g, 30.0 mmol) and potassium acetate (5.88 g, 60.0 mmol) in dimethylformamide (50 mL) under a nitrogen atmosphere. The mixture was sealed and heated at about 80° C. for about 1 hour then cooled to ambient temperature, filtered, and concentrated. The mixture was purified on a silica gel column using CH2Cl2 as the eluent to elute fractions containing the first isomer. These combined fractions were triturated with heptane (about 15 mL), filtered and dried to yield isomer A (2.06 g, 94% purity, 46% yield), RP HPLC (Table 1, Method e) Rt=2.50, m/z: (MH)+ 423. The second isomer was eluted using EtOAc and again the fractions were combined, concentrated, and dried to yield isomer B (2.31 g, 55%), RP HPLC (Table 1, Method e) Rt=2.24, m/z: (MH)+ 423.

reactant | dichloromethane | 0.50 mmol, 408 mg | ClCCl | CH2Cl2
reactant | methyl 1-(4-methoxy-benzyl)-5-bromo-1H-indazole-7-carboxylate | COC1=CC=C(CN2N=CC3=CC(=CC(=C23)C(=O)OC)Br)C=C1 | C17H15BrN2O3
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 30.0 mmol, 7.62 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 60.0 mmol, 5.88 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-Bis(diphenylphosphino)-ferrocene)dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 2-(4-methoxy-benzyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole-7-carboxylate | 46% yield | COC1=CC=C(CN2N=C3C(=CC(=CC3=C2)B2OC(C(O2)(C)C)(C)C)C(=O)OC)C=C1 | C23H27BN2O5
